US06268499B1
14.6 g (30.0 mmol) of (3R,4R,5S)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-ethoxy-3-hydroxy-piperidine-1-carboxylic acid tert-butylester and 7.74 g (35.0 mmol) of 2-bromomethyl-naphthalene were dissolved in 110 ml of dimethylformamide under argon and then 1.77 g (40.0 mmol) of sodium hydride dispersion (55% in mineral oil) was added. Subsequently, the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured onto ice-water, the resulting product was extracted 3 times with dichloromethane, the organic phases were washed twice with distilled water, then dried over magnesium sulfate, filtered and concentrated in a water-jet vacuum. The resulting crude product was chromatographed on silica gel with dichloromethane and methanol to yield (3R,4S,5S)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-ethoxy-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butylester as colorless oil; MS: 626.5(M+H+).

reactant | (3R,4R,5S)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-ethoxy-3-hydroxy-piperidine-1-carboxylic acid tert-butylester | 30.0 mmol, 14.6 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OCC)C1=CC=C(C=C1)OCCCOCC1=CC=CC=C1)O | C28H39NO6
reactant | 2-bromomethyl-naphthalene | 35.0 mmol, 7.74 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | sodium hydride | 40.0 mmol, 1.77 g | [H-].[Na+]
solvent | dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | (3R,4S,5S)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-ethoxy-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylic acid tert-butylester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OCC)C1=CC=C(C=C1)OCCCOCC1=CC=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C39H47NO6
